US07754737B2
A mixture of tert-butyl (S)-1-(trans-4-hydroxycyclohexyl)-3-(N-(benzyloxycarbonyl)-N-methylamino)propan-2-ylcarbamate (3 g, 7 mmol), Et3N (12 mL, 88 mmol), NEt3(HF)3 (4.71 mL, 29 mmol) and perfluorobutanesulfonyl fluoride (5.21 mL, 29 mmol) was stirred in THF (70 mL, 1 mmol/10 mL) at 50° C. until HPLC revealed complete conversion. The reaction mixture was quenched with water and extracted with EtOAc (2×100 mL), dried over MgSO4 and evaporated. The residue was then purified by prep HPLC to give tert-butyl (S)-1-(trans-4-fluorocyclohexyl)-3-(N-(benzyloxycarbonyl)-N-methylamino)propan-2-ylcarbamate (1.16 g, 40%) as a white solid. 1H NMR (CDCl3, 400 MHz) δ 1.41 (d, 9H), 1.68 (m, 6H), 1.96 (m, 3H), 2.98 (d, 3H), 3.20 (m, 1H), 3.52 (m, 1H), 3.90 (m, 1H), 5.13 (d, 2H), 7.33 (m, 5H).

reactant | tert-butyl (S)-1-(trans-4-hydroxycyclohexyl)-3-(N-(benzyloxycarbonyl)-N-methylamino)propan-2-ylcarbamate | 7 mmol, 3 g | O[C@@H]1CC[C@H](CC1)C[C@@H](CN(C)C(=O)OCC1=CC=CC=C1)NC(OC(C)(C)C)=O | C23H36N2O5
reactant | Et3N | 88 mmol, 12 mL | CCN(CC)CC | C6H15N
reactant | perfluorobutanesulfonyl fluoride | 29 mmol, 5.21 mL | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
reactant | THF | 1 mmol, 70 mL | C1CCOC1 | C4H8O
product | tert-butyl (S)-1-(trans-4-fluorocyclohexyl)-3-(N-(benzyloxycarbonyl)-N-methylamino)propan-2-ylcarbamate | 1.16 g, 40% | F[C@@H]1CC[C@H](CC1)C[C@@H](CN(C)C(=O)OCC1=CC=CC=C1)NC(OC(C)(C)C)=O | C23H35FN2O4
